US06358971B1
2-Amino-3-(4-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(4-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine (18.6 g, 43.7 mmol) was converted to product in a manner substantially analogous to Example 56 to yield 11.2 g. (77.2%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(4-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 43.7 mmol, 18.6 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC=C(C=C1)F)(F)F | C22H13F4N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(4-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC=C(C=C1)F | C20H14FN3O
